* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R2 N001 0 820
R3 N002 0 39
R1 N003 0 33k
R4 N001 N002 39
R5 N002 N003 3.3k
I1 0 N001 12

.end